US08138175B2
B) 4-((S)-3-Benzyloxy-1-methoxymethyl-propyl)-1-(3-trifluoromethyl-phenyl)-[1,4]diazepan-5-one
0.40 g (0.92 mmol) of the above prepared 4-((S)-3-benzyloxy-1-hydroxymethyl-propyl)-1-(3-trifluoromethyl-phenyl)-[1,4]diazepan-5-one and 0.29 ml (4.58 mmol) of methyl iodide were dissolved in 1.6 ml of DMF. After cooling (0° C.), 0.048 g (1.10 mmol) of NaH (55% dispersion in oil) was added. The reaction was stirred for 3 h at this temperature, then poured onto crashed ice/aq. 10% KHSO4 solution and extracted with Et2O (3×). The organic layers were washed with aq. 10% KHSO4 solution and aq. 10% NaCl solution, dried over Na2SO4, evaporated and purified by flash silica gel column (n-heptane:EtOAc 1:1) to yield 0.42 g (quantitative) of the title compound as light yellow oil. MS: 451.2 (MH+, 1Cl).

reactant | 4-((S)-3-benzyloxy-1-hydroxymethyl-propyl)-1-(3-trifluoromethyl-phenyl)-[1,4]diazepan-5-one | C(C1=CC=CC=C1)OCC[C@@H](CO)N1CCN(CCC1=O)C1=CC(=CC=C1)C(F)(F)F | C23H27F3N2O3
reactant | methyl iodide | 4.58 mmol, 0.29 ml | CI | CH3I
reactant | NaH | 1.10 mmol, 0.048 g | [H-].[Na+]
solvent | DMF | 1.6 ml | CN(C)C=O | C3H7NO
product | 4-((S)-3-Benzyloxy-1-methoxymethyl-propyl)-1-(3-trifluoromethyl-phenyl)-[1,4]diazepan-5-one | C(C1=CC=CC=C1)OCC[C@@H](COC)N1CCN(CCC1=O)C1=CC(=CC=C1)C(F)(F)F | C24H29F3N2O3
